* ============================================================================
* Ibanez Tube Screamer TS-808 — Full Signal Path
* PedalKernel Legends Validation Circuit
* ============================================================================
*
* Topology (mirrors screamer.pedal in pedalkernel-pro/pedals/legends/):
*   1. Bias network  — 4.5 V virtual ground from 9 V supply (R_v1/R_v2/C_v)
*   2. Input coupling — Cin (22n) + R_in (510k) shunt
*   3. Clipping stage — U1 non-inverting opamp with Drive pot (500k, set 50%)
*                       + R_clip (51k) + 1N914 anti-parallel pair in feedback
*                       + R_hp/C_hp HP network in negative feedback
*                       + C_clip (47p) HF rolloff in feedback
*   4. Tone control   — R_t1 (1k) / Tone pot (20k, set 50%) / C_t1 (220n)
*                       bass path + R_t2 (220) / C_t2 (100n) treble path
*                       followed by U2 unity-gain voltage follower
*   5. Output stage   — C_c2 (1u) coupling, Level pot (100k, set 70%),
*                       C_out (10u), R_out_s (100) series, R_out_g (10k) shunt
*
* Control positions (nominal, mid-drive):
*   Drive  = 0.5 → Rdrive_top=250k, Rdrive_bot=250k  (500k audio taper ≈ linear here)
*   Tone   = 0.5 → split at wiper: Rtone_top=10k, Rtone_bot=10k
*   Level  = 0.7 → split: Rlevel_top=30k, Rlevel_bot=70k (100k audio taper)
*
* Supply: VCC = 9 V, Vbias = 4.5 V (ideal voltage source for SPICE simplicity)
*
* Op-amp model: ideal VCVS (gain=100000, inverting input=v_neg, pos grounded
*   for clarity) implemented as E-source.  Both U1 and U2 use VCC rail clamping
*   approximated by the large-gain VCVS; for soft-clipping the diode pair
*   limits the loop well before rail.
*
* Diode model: 1N914 (same as ts808_clipper.spice in this repo)
*   Is=4.35n N=1.906 Rs=0.6 Cjo=2p
* ============================================================================

* ---- Supply and bias -------------------------------------------------------
* 9 V supply (DC)
VCC vcc 0 DC 9

* Bias divider: R_v1 / R_v2 give 4.5 V at node vb; C_v bypasses to AC ground.
R_v1 vcc vb 10k
R_v2 vb  0  10k
C_v  vb  0  47u

* ---- Input coupling --------------------------------------------------------
* Cin couples the input; R_in provides impedance to ground.
Cin  v_in  v_in_r 22n
R_in v_in_r 0     510k

* ---- Clipping stage (U1, non-inverting) ------------------------------------
* C_c1: coupling cap from input to U1+ and bias R_b1.
C_c1 v_in_r v_u1pos 1u
R_b1 v_u1pos vb    10k

* Negative feedback: R_hp + C_hp define bass roll-off (f_hp ≈ 720 Hz).
* R_hp goes from U1.neg to node v_hp; C_hp from v_hp to ground.
R_hp v_u1neg v_hp 4.7k
C_hp v_hp    0    47n

* Drive pot (500k, position=0.5 → each half ≈ 250k audio taper).
* Rdrive_top: U1.out → Drive wiper node v_drive_w
* Rdrive_bot: v_drive_w → R_clip → U1.neg
Rdrive_top v_u1out v_drive_w 250k
Rdrive_bot v_drive_w v_rclip_in 250k

* Minimum feedback resistor (series with Drive).
R_clip v_rclip_in v_u1neg 51k

* Anti-parallel 1N914 clipping diodes in feedback (soft clip).
D1 v_u1neg v_u1out D1N914
D2 v_u1out v_u1neg D1N914
.model D1N914 D(Is=4.35n N=1.906 Rs=0.6 Cjo=2p)

* HF rolloff cap in feedback (47p, same nodes as diodes).
C_clip v_u1out v_u1neg 47p

* U1: ideal op-amp as VCVS (non-inverting: + = v_u1pos, - = v_u1neg).
* Eop: output = gain * (v+ - v-)
Eu1 v_u1out 0 v_u1pos v_u1neg 100000

* ---- Tone control (passive) + U2 unity buffer ------------------------------
* R_t1 from U1 output to tone network.
R_t1 v_u1out v_tone_in 1k

* Tone pot (20k, position=0.5 → 10k each half).
* Top half: v_tone_in → wiper v_tone_w
* Bottom half: v_tone_w → v_tone_bot → C_t1 → gnd (bass path)
Rtone_top v_tone_in v_tone_w   10k
Rtone_bot v_tone_w  v_tone_bot 10k
C_t1      v_tone_bot 0         220n

* Treble path: R_t2 + C_t2 from v_tone_in to ground.
R_t2 v_tone_in v_t2c 220
C_t2 v_t2c     0     100n

* U2: unity-gain voltage follower (out = in = v_tone_w).
Eu2     v_u2out 0 v_tone_w v_u2out 100000

* ---- Output: coupling, level, output network -------------------------------
* C_c2: coupling cap from U2 output.
C_c2 v_u2out v_level_in 1u

* Level pot (100k, position=0.7 audio taper).
* Audio taper at 0.7: bottom ~70% of resistance = 70k, top = 30k.
Rlevel_top v_level_in v_level_w 30k
Rlevel_bot v_level_w  0         70k

* C_out: output coupling.
C_out v_level_w v_cout_out 10u

* Output network: R_out_s series + R_out_g shunt to ground.
R_out_s v_cout_out v_out 100
R_out_g v_out      0     10k

