* ============================================================================
* Boss SD-1 Super OverDrive — Full Signal Path
* PedalKernel Legends Validation Circuit
* ============================================================================
*
* Topology (mirrors sd1.pedal in pedalkernel-pro/pedals/legends/):
*   1. Bias network    — R_v1 (10k) / R_v2 (10k) → VB = 4.5V (C_v 47µF bypass)
*   2. Input coupling  — Cin (47nF) + R_in (470k) shunt to ground
*   3. Clipping stage  — U1 (JRC4558) non-inverting:
*                          C_c1 (1µF) input coupling + R_b1 (10k) bias to VB
*                          Feedback: Drive pot (500k, pos=0.5→250k) in feedback path
*                            Minimum R_clip (4.7k) + C_clip (39pF) HF rolloff
*                          HP rolloff: R_hp (4.7k) + C_hp (47nF) in neg-feedback-to-gnd
*                          ASYMMETRIC diodes: D_si (1N914 silicon) + D_ge (germanium)
*                            antiparallel in feedback — different forward voltages
*                            D_si: ~0.6V clips positive; D_ge: ~0.25V clips negative
*   4. Tone control    — R_t1 (1k) + Tone pot (20k, pos=0.5) passive RC network
*                          Bass: C_t1 (220nF) shunt; Treble: R_t2 (1k) + C_t2 (47nF)
*                          U2 (JRC4558) unity-gain voltage follower
*   5. Output stage    — C_c2 (1µF) coupling + Level pot (100k, pos=0.7)
*                          C_out (10µF) + R_out_s (1k) series + R_out_g (10k) shunt
*
* Control positions (nominal, mid-drive):
*   Drive  = 0.5  → Rdrive: top=250k, bot=250k (feeds back to U1.neg through R_clip)
*   Tone   = 0.5  → Rtone: top=10k, bot=10k
*   Level  = 0.7  → Rlevel: top=30k, bot=70k (audio taper)
*
* Supply: VCC = 9V, VB = 4.5V (ideal voltage source for clarity)
*
* Op-amp model: ideal VCVS (gain=100000) for both U1 (JRC4558) and U2.
*   The JRC4558's moderate slew rate character is not modelled here.
*
* Diode models:
*   D_si (1N914 silicon): Is=4.35n N=1.906 Rs=0.6 Cjo=2p  (Vf≈0.6V)
*   D_ge (germanium, D9E-type): Is=200n N=1.4 Rs=20 Cjo=2p (Vf≈0.25V)
*
* The asymmetry between D_si and D_ge is the defining SD-1 character:
*   - Positive half: clipped at ~0.6V (harder, more symmetric with TS808)
*   - Negative half: clipped at ~0.25V (softer, earlier, more even harmonics)
* ============================================================================

* ---- Supply and bias -------------------------------------------------------
VCC  vcc  0  DC 9
Vbias vb  0  DC 4.5

R_v1  vcc  vb1   10k
R_v2  vb1  0     10k
C_v   vb1  0     47u

* ---- Input coupling --------------------------------------------------------
* Cin blocks DC; R_in shunts to ground (pedal input impedance).
Cin   v_in    v_in_r   47n
R_in  v_in_r  0        470k

* ---- Clipping stage (U1, non-inverting) ------------------------------------
* C_c1 couples input to U1+ ; R_b1 biases U1+ to VB.
C_c1  v_in_r  v_u1pos  1u
R_b1  v_u1pos vb1      10k

* HP network in negative feedback:
* R_hp from U1.neg to v_hp; C_hp from v_hp to ground.
* fc ≈ 1/(2π × 4.7k × 47n) ≈ 720Hz (same as TS808).
R_hp  v_u1neg  v_hp    4.7k
C_hp  v_hp     0       47n

* Drive pot (500k, pos=0.5 → 250k each half):
* pedal: U1.out → Drive.a, Drive.b → R_clip → U1.neg
Rdrive_top  v_u1out   v_drive_w   250k
Rdrive_bot  v_drive_w v_rclip_in  250k

* Minimum feedback resistor (4.7k, lower than TS808's 51k)
R_clip  v_rclip_in  v_u1neg  4.7k

* ASYMMETRIC diode pair in feedback:
* D_si: anode at U1.out → cathode at U1.neg — clips POSITIVE half at ~0.6V
* D_ge: anode at U1.neg → cathode at U1.out — clips NEGATIVE half at ~0.25V
D_si  v_u1out  v_u1neg  DSilicon
D_ge  v_u1neg  v_u1out  DGermanium
.model DSilicon   D(Is=4.35n N=1.906 Rs=0.6 Cjo=2p)
.model DGermanium D(Is=200n  N=1.4   Rs=20  Cjo=2p)

* HF rolloff cap in feedback (39pF — slightly tighter than TS808's 47pF)
C_clip  v_u1out  v_u1neg  39p

* U1: ideal VCVS non-inverting opamp
Eu1  v_u1out  0  v_u1pos v_u1neg  100000

* ---- Tone control (passive RC blend) + U2 unity buffer ---------------------
* R_t1 from U1 output to tone network junction v_tone_in.
R_t1  v_u1out  v_tone_in  1k

* Tone pot (20k, pos=0.5 → 10k each half):
* top half: v_tone_in → wiper v_tone_w (drives U2.pos)
* bottom half: v_tone_w → v_tone_bot → C_t1 to gnd (bass path)
Rtone_top  v_tone_in  v_tone_w    10k
Rtone_bot  v_tone_w   v_tone_bot  10k
C_t1       v_tone_bot 0           220n

* Treble path: R_t2 + C_t2 shunt from v_tone_in to ground.
* (47nF vs 100nF on TS808 — brighter character)
R_t2  v_tone_in  v_t2c   1k
C_t2  v_t2c      0       47n

* U2: unity-gain voltage follower (out = in = v_tone_w)
Eu2  v_u2out  0  v_tone_w v_u2out  100000

* ---- Output: coupling, level, output network --------------------------------
* C_c2: DC blocking 1µF.
C_c2  v_u2out  v_level_in  1u

* Level pot (100k, pos=0.7 audio taper):
* Audio taper at 0.7: bottom ≈ 70k, top ≈ 30k.
Rlevel_top  v_level_in  v_level_w  30k
Rlevel_bot  v_level_w   0          70k

* C_out: output coupling 10µF.
C_out  v_level_w  v_cout_out  10u

* Output network: R_out_s (1k) series, R_out_g (10k) shunt to ground.
R_out_s  v_cout_out  v_out  1k
R_out_g  v_out       0      10k

